US07265120B2
A suspension of 2-isopropyl-6-{6-[(4-methoxybenzyl)amino]-3-phenyl-2-pyrazinyl}-3(2H)-pyridazinone (2.01 g) in a mixture of toluene (1 ml) and conc. HCl (6 ml) was refluxed for 4 hours. After cooling, an organic layer was removed and an aqueous layer was adjusted to pH 8 with 8N aq. NaOH to yield a precipitate. The precipitate was collected by filtration and dried under reduced pressure and purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (30:70 v/v) to give 6-(6-amino-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone as a solid (680 mg).

reactant | 2-isopropyl-6-{6-[(4-methoxybenzyl)amino]-3-phenyl-2-pyrazinyl}-3(2H)-pyridazinone | 2.01 g | C(C)(C)N1N=C(C=CC1=O)C1=NC(=CN=C1C1=CC=CC=C1)NCC1=CC=C(C=C1)OC | C25H25N5O2
reactant | HCl | 6 ml | Cl | ClH
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(6-amino-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 680 mg | NC1=CN=C(C(=N1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H17N5O
